US08431607B2
3-[4-(4-chloro-phenoxy)-phenyl]-1-methyl-4-(3-trifluoromethyl-phenyl)-imidazolidin-2-one
To a solution of 1-[4-(4-chloro-phenoxy)-phenyl]-5-(3-trifluoromethyl-phenyl)-imidazolidin-2-one (20.0 mg, 0.046 mmol) in anhydrous DMF (0.5 mL) is added NaH (2.2 mg, 60% dispersion in mineral oil, 0.055 mmol) at 0° C. The reaction mixture is stirred at room temperature for 30 minutes before MeI (8.63 μL, 0.138 mmol) is added. The mixture is stirred at room temperature for 2 hours and then partitioned between water and ethyl acetate. The organic layer is concentrated and purified by preparative LC/MC to provide the title compound; HPLC-MS calculated for C23H18ClF3N2O2 (M+H+) 447.1, found 447.1.

reactant | 1-[4-(4-chloro-phenoxy)-phenyl]-5-(3-trifluoromethyl-phenyl)-imidazolidin-2-one | 0.046 mmol, 20.0 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(NCC2C2=CC(=CC=C2)C(F)(F)F)=O)C=C1 | C22H16ClF3N2O2
reactant | NaH | 0.055 mmol, 2.2 mg | [H-].[Na+]
reactant | MeI | 0.138 mmol, 8.63 μL | CI | CH3I
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-[4-(4-chloro-phenoxy)-phenyl]-1-methyl-4-(3-trifluoromethyl-phenyl)-imidazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(CC2C2=CC(=CC=C2)C(F)(F)F)C)=O)C=C1 | C23H18ClF3N2O2
